US03981932
To 0.05 moles of ethyl 3-amino-4-cyclohexylphenylglyoxylate dissolved in a mixture of 50 g. of ice water and 0.06 moles of concentrated sulfuric acid at 0°C is added a solution of 0.05 moles of 95% sodium nitrite in 8 ml. of water. Stirring is continued for 1/2 hour and then 1.5 ml. of concentrated sulfuric acid is added. This solution is poured into an ice cold solution of .06 moles of potassium iodide in 10 ml. of water. To this is added 0.075 g. copper bronze with stirring and the solution is warmed slowly on a water bath to about 80°C for 2 hours. After cooling to room temperature the reaction mixture is extracted thrice with 15 ml. portions of chloroform. This is then washed with dilute thiosulfate solution, water, dried over sodium sulfate and evaporated in vacuo. The residue is crystallized to obtain 3-iodo-4-cyclohexylphenylglyoxylic acid.

reactant | ethyl 3-amino-4-cyclohexylphenylglyoxylate | 0.05 moles | NC=1C=C(C=CC1C1CCCCC1)C(C(=O)OCC)=O | C16H21NO3
reactant | sulfuric acid | 0.06 moles | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 0.05 moles | N(=O)[O-].[Na+]
reactant | potassium iodide | .06 moles | [I-].[K+]
catalyst | copper bronze | [Cu] | Cu
solvent | water | O | H2O
product | 3-iodo-4-cyclohexylphenylglyoxylic acid | IC=1C=C(C=CC1C1CCCCC1)C(C(=O)O)=O | C14H15IO3
